US08048897B2
(1) Synthesis of 2-(4-Fluorobenzyl)phenol
In a nitrogen stream, an n-butyllithium hexane solution (1.59 M, 4.9 mL) was added dropwise to a solution of 1-benzyloxy-2-bromobenzene (2.04 g, 7.75 mmol) in THF (60 mL) at −78° C. and the mixture was stirred at the same temperature for 20 minutes. To this solution, a solution of 4-fluorobenzaldehyde (801 mg, 6.45 mmol) in THF (10 mL) was added dropwise at −78° C. The mixture was stirred at the same temperature for 1.5 hours, and then a saturated ammonium chloride aqueous solution was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure to obtain a crude product (2.35 g) of the title compound. To a solution of the obtained crude product in methanol (15 mL), a 20% palladium hydroxide catalyst (186 mg) was added and furthermore 2N—HCl (400 μL) was added thereto. The mixture was stirred under a hydrogen atmosphere for three hours, and then the catalyst was filtered. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (996 mg, 77%).

reactant | n-butyllithium hexane | 1.59 M, 4.9 mL | CCCCCC.C(CCC)[Li]
reactant | 1-benzyloxy-2-bromobenzene | 7.75 mmol, 2.04 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)Br | C13H11BrO
reactant | 4-fluorobenzaldehyde | 6.45 mmol, 801 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | 400 μL | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium hydroxide | 186 mg | [OH-].[Pd+2].[OH-]
product | 2-(4-Fluorobenzyl)phenol | 996 mg, 77% | FC1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C13H11FO
